US09238640B2
Preparation of 2-(4-(4-Benzoylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one
To a solution of 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one (0.150 g, 0.40 mmol) in CH2Cl2 (10 mL) was added Et3N (0.08 mL, 0.60 mmol) and benzoyl chloride (0.04 mL, 0.36 mmol). The resulting solution was stirred at room temperature for 3 hours. The solution was concentrated in vacuo. The material was purified by flash chromatography on silica gel eluting with 0% to 10% of MeOH/EtOAc to afford the title compound (0.110 g, 64%). 1H NMR (300 MHz, DMSO-d6): δ 11.79 (s, 1H), 8.11 (d, J=8.7 Hz, 2H), 7.37-7.54 (m, 5H), 7.04 (d, J=8.9 Hz, 2H), 6.68 (s, 1H), 6.47 (s, 1H), 3.61-4.03 (m, 8H), 3.23-3.62 (m, 6H); ESI MS m/z 471 [M+H]+.

reactant | 5,7-dimethoxy-2-(4-(piperazin-1-yl)phenyl)quinazolin-4(3H)-one | 0.40 mmol, 0.150 g | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(C=C1)N1CCNCC1)=O | C20H22N4O3
reactant | Et3N | 0.60 mmol, 0.08 mL | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 0.36 mmol, 0.04 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(4-Benzoylpiperazin-1-yl)phenyl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.110 g, 64% | C(C1=CC=CC=C1)(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C27H26N4O4
